US07320993B1
a) N-[4-(benzhydryl-amino)-butyl]-carbamic acid tert-butyl ester
5.0 g (26.6 mmol) N-(tert-butoxycarbonyl)-1,4-diaminobutane 5.5 g (39.8 mmol) potassium carbonate and 0.9 g (5.3 mmol) potassium iodide are placed in 50 ml DMF and 6.6 g (26.6 mmol) benzhydryl bromide are added dropwise at RT. The mixture is stirred for 12 hours at 70° C. and the suspension is filtered after cooling and the filtrate is concentrated under vacuum. The residue is taken up in 200 ml chloroform and washed with 100 ml water. The organic phase is dried over sodium sulfate and, subsequently, the solvent is removed under vacuum. The accumulated crude product is further processed without further purification: Yield 10.8 g.

reactant | N-(tert-butoxycarbonyl)-1,4-diaminobutane | 26.6 mmol, 5.0 g | C(C)(C)(C)OC(=O)NCCCCN | C9H20N2O2
reactant | potassium iodide | 5.3 mmol, 0.9 g | [I-].[K+]
reactant | benzhydryl bromide | 26.6 mmol, 6.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C13H11Br
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | N-[4-(benzhydryl-amino)-butyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCCNC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C22H30N2O2
